2178-03-07 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   INR 10.6 this morning, no active bleeding. Gave Vitamin K 7.5mg and
   will recheck PTT/INR at 1 pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-7**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 85 (77 - 91) bpm
   BP: 91/58(44) {81/32(42) - 123/61(71)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    725 mL
                                                                    925 mL
   PO:
             TF:
   IVF:
                                                                    725 mL
                                                                    925 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    960 mL
   Urine:
                                                                    780 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -555 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   9.0 g/dL
   167 mg/dL
   2.0 mg/dL
   23 mEq/L
   5.7 mEq/L
   79 mg/dL
   108 mEq/L
   141 mEq/L
   29.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
   WBC
   18.5
   Hct
   29.2
   Plt
   222
   Cr
   2.0
   Glucose
   167
   Other labs: PT / PTT / INR:87.3/73.2/10.6, Differential-Neuts:95.5 %,
   Lymph:2.8 %, Mono:1.7 %, Eos:0.0 %, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   82 M with COPD, s/p bioprosthetic AVR for AS, afib s/p CV who presents
   with a community acquired pneumonia
   .
   # Community acquired pneumonia- clear consolidation on chest radiograph
   (RM/RLL - ? aspiration); afebrile but continued leukocytosis and CXR
   infiltrates (same region as PNA 2 years ago). Urine legionella
   negative.
   - ceftriaxone and azithromycin day 2: will switch to PO versions and
   change Azithromycin to 250mg daily
   - follow-up sputum sample and urine legionella
   - add albuterol and ipratropium nebulizers
   - supplemental O2 as needed (consider mask vent is worsens)
   - CT chest today given chronic RLL changes on prior chest radiographs
   and history of RCC and colon cancer
   .
   # Acute on chronic kidney injury- in setting of volume depletion
   received IVF yesterday; Creatinine 2.3
 2.0. Baseline 1.6-1.8
   - Will encourage PO fluids today
   .
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs
   - add steroids if persistent wheezing
   .
   # Atrial fibrillation
   - hold coumadin given INR
 will recheck this afternoon given INR of
   10+ this morning
   - hold rate control for now given relative hypotension
   - continue digoxin
   .
   # HTN-
   - Continue to hold home meds in setting of normo-hypotension and
   ongoing infection
   .
   #
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Supratherapeutic INR
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 callout possible
   today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-07 10:41:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                             History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-7**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.6
C (96
   HR: 90 (77 - 91) bpm
   BP: 94/59(68) {81/32(42) - 123/61(71)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    725 mL
                                                                  1,308 mL
   PO:
             TF:
   IVF:
                                                                    725 mL
                                                                  1,308 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                  1,360 mL
   Urine:
                                                                    780 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -555 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended, ventral hernia
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   222 K/uL
   167 mg/dL
   2.0 mg/dL
   23 mEq/L
   5.7 mEq/L
   79 mg/dL
   108 mEq/L
   141 mEq/L
   29.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
   WBC
   18.5
   Hct
   29.2
   Plt
   222
   Cr
   2.0
   Glucose
   167
   Other labs: PT / PTT / INR:87.3/73.2/10.6, Differential-Neuts:95.5 %,
   Lymph:2.8 %, Mono:1.7 %, Eos:0.0 %, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 CAP
   -empiric tx with Azithro/Ceftriaxone
   -scx
   -recurrence of PNA is similar location to previous PNA raises concern
   for endobronchial/post obstructive etiology. Agree with CT of chest
   once able to exclude
Afib
   -hold coumadin, INR supratherapeutic
   -cont Dig
   -rate controlled
COPD
   -cont MDIs
   -begin restart as bp allows
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2178-03-08 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-3-8**] 06:45 AM for Hyperkalemia. No EKG changes. Given
   Calcium and Kayexalate.
 CALLED OUT
   - ? of occasional VT bursts, with coughing, put back on his home
   Metoprolol
   - INR of 9.3 (2pm), got Vit K 10 mg PO --> 8.3 (5pm), rpt vit K 10 mg
   PO --> at 9 pm had formed brown BM guiac+, INR 7.7 --> 3.4 (4am)
   - hct 29 --> 24.7 (2pm) --> 25.3 (5pm) --> 26.4 (9pm)--> 22.9 (4am)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-8**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 74 (74 - 110) bpm
   BP: 87/37(56) {76/32(43) - 121/59(68)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,540 mL
                                                                    894 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                  3,100 mL
                                                                    894 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    980 mL
   Urine:
                                                                  2,250 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: NAD
   Neuro: Aox3, cheerful, moving all 4
   Lungs: CTA
   CV: s1 s2 with loud SEM
   Ab: soft, NT, large ventral hernia, reducible
   Labs / Radiology
   234 K/uL
   7.1 g/dL
   124 mg/dL
   2.0 mg/dL
   22 mEq/L
    6.5 mEq/L
   93 mg/dL
   114 mEq/L
   142 mEq/L
   22.9 %
   22.1 K/uL
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
                             [**2178-3-7**]  01:58 PM
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
   WBC
   18.5
   19.0
   22.1
   Hct
   29.2
   24.7
   25.3
   26.4
   22.9
   Plt
   222
   216
   234
   Cr
   2.0
   2.0
   2.0
   Glucose
   167
   156
   124
   Other labs: PT / PTT / INR:33.9/47.6/3.4, Differential-Neuts:91.8 %,
   Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   82 M with COPD, s/p splenectomy, s/p bioprosthetic aortic valve
   replacement, afib s/p CV who presents with a community acquired
   pneumonia
   .
   # Community acquired pneumonia- clear consolidation on chest radiograph
   (RM/RLL - ? aspiration); afebrile but continued leukocytosis and CXR
   infiltrates (same region as PNA 2 years ago). Urine legionella
   negative.
   - ceftriaxone and azithromycin day 2: will switch to PO versions and
   change Azithromycin to 250mg daily
   - follow-up sputum sample and urine legionella
   - add albuterol and ipratropium nebulizers
   - supplemental O2 as needed (consider mask vent is worsens)
   - CT chest today given chronic RLL changes on prior chest radiographs
   and history of RCC and colon cancer
   .
   # Acute on chronic kidney injury- in setting of volume depletion
   received IVF yesterday; Creatinine 2.3
 2.0. Baseline 1.6-1.8
   - Will encourage PO fluids today
   .
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs
   - add steroids if persistent wheezing
   .
   # Atrial fibrillation
   - hold coumadin given INR
 will recheck this afternoon given INR of
   10+ this morning
   - hold rate control for now given relative hypotension
   - continue digoxin
   .
   # HTN-
   - Continue to hold home meds in setting of normo-hypotension and
   ongoing infection
   .
   #
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Supratherapeutic INR
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 callout possible
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-08 10:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: CAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2178-3-8**] 06:45 AM
 CALLED OUT
 PO Vit K
 Kayoxelate for inc potassium
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-8**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 107 (72 - 110) bpm
   BP: 97/56(66) {76/32(43) - 121/59(68)} mmHg
   RR: 26 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,540 mL
                                                                  1,453 mL
   PO:
                                                                  1,440 mL
                                                                    380 mL
   TF:
   IVF:
                                                                  3,100 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                  1,610 mL
   Urine:
                                                                  2,250 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, ventral hernia
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   234 K/uL
   124 mg/dL
   2.0 mg/dL
   22 mEq/L
   6.4 mEq/L
   93 mg/dL
   114 mEq/L
   142 mEq/L
   22.9 %
   22.1 K/uL
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
                             [**2178-3-7**]  01:58 PM
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
   WBC
   18.5
   19.0
   22.1
   Hct
   29.2
   24.7
   25.3
   26.4
   22.9
   Plt
   222
   216
   234
   Cr
   2.0
   2.0
   2.0
   Glucose
   167
   156
   124
   Other labs: PT / PTT / INR:33.9/47.6/3.4, Differential-Neuts:91.8 %,
   Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 CAP
   -empiric tx with Azithro/Ceftriaxone
   -scx
   -recurrence of PNA is similar location to previous PNA raises concern
   for endobronchial/post obstructive etiology. Agree with CT of chest
   once able to exclude
Afib
   -hold coumadin, INR supratherapeutic
   -cont Dig
   -rate 110-120 - titrating nodal agents
COPD
   -cont MDIs
Coagulopathy
   -received vit K given drop in hct and guiac+ stools
   -cont guiac stools, follow hct
   -CT to r/o RP bleed
   -begin restart as bp allows
Renal function
   -creat trending back down 2.0 today.  1.8 baseline
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent:

2178-03-09 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**3-8**]:
   - CT Chest/Abd/Pelvis read: RML/RLL consolidation and R pleural
   effusion; bilateral apical emphysema, aortic calcification and 3VD, no
   acute intra-abdominal abnormalities, ventral hernia
   - 1200 INR 2.1, started heparin gtt to bridge back to therapeutic range
   (2.5-3.5, given valve)
   - Restarted warfarin at 2 mg (may be low for him, but on antibiotics)
   - Metoprolol tartrate changed to 25 [**Hospital1 **]
   - transfused 1 unit pRBCs for Hct 21.1; only bumped to 22.3. VSS
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Ceftriaxone - [**2178-3-8**] 02:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2178-3-8**] 04:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2178-3-9**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 100 (72 - 115) bpm
   BP: 101/44(55) {80/21(41) - 115/83(90)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  2,040 mL
                                                                    985 mL
   PO:
                                                                    730 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,310 mL
                                                                    310 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,720 mL
                                                                    735 mL
   Urine:
                                                                  3,120 mL
                                                                    735 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,680 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: /// 19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Dried blood on lower lip
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
    242
   7.4
   119
   1.8
    19
    6.0
   93
   115
   143
   22.3
   20.5
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
                             [**2178-3-7**]  01:58 PM
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
                             [**2178-3-8**]  12:20 PM
                             [**2178-3-8**]  09:42 PM
                             [**2178-3-9**]  03:43 AM
   WBC
   18.5
   19.0
   22.1
   23.8
   23.6
   20.5
   Hct
   29.2
   24.7
   25.3
   26.4
   22.9
   25.3
   21.1
   22.3
   Plt
   222
   216
   234
   [**Telephone/Fax (3) 11620**]
   Cr
   2.0
   2.0
   2.0
   2.2
   1.8
   Glucose
   167
   156
   124
   140
   119
   Other labs: PT / PTT / INR:19.9/144.1/1.8, Differential-Neuts:91.8 %,
   Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Ca++:8.2, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Imaging: [**3-8**] CXR: Right base effusion and collapse and/or
   consolidation, similar to
   [**2178-3-7**].
   [**3-8**] CT PFI: -Right middle and right lower lobe air space consolidation
   with associated
   small right pleural effusion, most likely in keeping with an infectious
   etiology. However, given the history of chronicity of this findings,
   although an acute-on-chronic presentation is most likely, an underlying
   neoplasm such as lymphoma or BAC cannot be excluded. Follow-up
   radiographs to
   confirm resolution is suggested.
   -bilateral apical emphysema
   -mild/mod aortic vascular calcification and three-vessel coronary calc.
   -no acute intra-abdominal abnormalities
   -wide neck ventral hernia containing colon
   Microbiology: [**3-6**] BCx: Pending
   [**3-6**] UCx/Legionella: Negative
   Assessment and Plan
   82 M with COPD, asplenic, w/ bioprosthetic aortic valve, who presents
   with a community acquired pneumonia, elevated INR and dropping
   hematocrit.
   # CAP: Afebrile, with mild improvement in leukocytosis. CT c/w RML/RLL
   consolidation, likely PNA, but cannot rule out lympadenopathy or
   malignancy. Remains on Ctx and Azithro (started [**3-6**])
   - f/u cx
   - Sputum culture if patient provides sample
   - given remote splenectomy, check vaccinations are up to date
   - trend fever curve, WBC count
   #Anemia & Elevated INR: Hct remains low, with significant Hct drop
   since admission. No abdominal bleed on preliminary CT report, but does
   have dark, tarry stools. Transfused RBC overnight with sub-optimal
   response. Need to be aggressive in searching for ongoing bleed, given
   anti-coagulation for valve replacement
   - Check PM Hct
   - GI consult for ? endoscopy; consider upper GI lavage if not a
   candidate for endoscopy
   - F/u abd/pelvis CT
   - Maintain active type & screen
   - Start PPI
   # Acute on chronic kidney injury. Creatinine improving to 1.8 today.
   Likely [**2-24**] volume depletion given high BUN/creatinine ratio, mild
   hypernatremia. Baseline creatinine 1.6-1.8
   - Will encourage PO fluids
   - IV bolus vs blood transfusion if continues to appear dry
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs prn
   - add steroids if persistent wheezing
   # Atrial fibrillation: INR now subtherapeutic after vitamin K doses.
   Restarted heparin gtt to bridge back to therapeutic range, which is
   2.5-3.5.
   - restart coumadin to get INR back to therapeutic range. If active
   bleed detected on endoscopy, will have to hold long-acting
   anticoagulation
   - c/w Heparin gtt
   - continue Digoxin
   - continue home Metoprolol but change dosing to 25 mg [**Hospital1 **]
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin gtt, PPI
   # Access: peripherals; will pursue further peripheral access
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending evaluation of GI bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   20 Gauge - [**2178-3-9**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-09 09:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: CAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
 Heparin drip started
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-6**] 08:11 PM
   Ceftriaxone - [**2178-3-8**] 02:30 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2178-3-8**] 04:16 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-9**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (89 - 115) bpm
   BP: 99/39(53) {85/21(41) - 117/83(90)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  2,040 mL
                                                                    747 mL
   PO:
                                                                    730 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,310 mL
                                                                     72 mL
   Blood products:
   375 mL
   Total out:
                                                                  3,720 mL
                                                                  1,010 mL
   Urine:
                                                                  3,120 mL
                                                                  1,010 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,680 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: /// 19/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory), prolonged expiratory phase
   Abdominal: Soft, Non-tender, Bowel sounds present, ventral hernia
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4
    242
   119
   1.8
    19
    6.0
   93
   115
   143
   22.3
   20.5
        [image002.jpg]
                             [**2178-3-7**]  03:24 AM
                             [**2178-3-7**]  01:58 PM
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
                             [**2178-3-8**]  12:20 PM
                             [**2178-3-8**]  09:42 PM
                             [**2178-3-9**]  03:43 AM
   WBC
   18.5
   19.0
   22.1
   23.8
   23.6
   20.5
   Hct
   29.2
   24.7
   25.3
   26.4
   22.9
   25.3
   21.1
   22.3
   Plt
   222
   216
   234
   [**Telephone/Fax (3) 11620**]
   Cr
   2.0
   2.0
   2.0
   2.2
   1.8
   Glucose
   167
   156
   124
   140
   119
   Other labs: PT / PTT / INR:19.9/144.1/1.8, Differential-Neuts:91.8 %,
   Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Ca++:8.2, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 CAP
   -empiric tx with Azithro/Ceftriaxone
   -scx
   -recurrence of PNA is similar location to previous PNA raises concern
   for endobronchial/post obstructive etiology
   -CT of chest to exclude endobronchial/post-obstructive etiologies
Afib
   -cont Dig
   -restarting anticoag coumadin - heparin in the interim
COPD
   -cont MDIs
GIB/Anemia secondary to blood loss
   -didn't bump adequately with transfusion
   -melanotic stool
   -serial hct
   -consult GI
Coagulopathy
   -received PO vit K
   -CT did not reveal RP bleed
   -begin restart as bp allows
Renal function
   -creat trending back down 2.0 today.  1.8 baseline
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   20 Gauge - [**2178-3-9**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2178-03-10 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**3-9**]
   - guaiac positive on exam, started on IV PPI [**Hospital1 **]
   - GI consulted: Would not scope for now. Rec'ing IV PPI [**Hospital1 **], Hct>25,
   HPylori and normalizing coags 24-48hrs
   - Cards says ok to hold Coumadin given CHADS2 score 3, also held
   heparin gtt
   - 3 units pRBC since 1am; Hct 21 --> 25.5 (insufficient bump but >25)
   - Started clears diet --> will advance tomorrow back to regular if
   tolerated
   - CT abd/pelvis final read: 1. Parenchymal opacification at the right
   lower lobe and, to a lesser extent, the right middle lobe. Possible
   narrowing or part opacification of the right lower lobe bronchus. An
   underlying mass is not excluded.
   2. Right pre-bronchial and pretracheal mild adenopathy.
   3. Small right pleural effusion, with adjacent atelectasis at the right
   lung base. Minimal left pleural effusion.
   4. Lobulated soft tissue in the splenic resection bed could represent
   regenerative residual spleen. Less likely, given history of renal
   neoplasm, a local recurrent neoplasm is not excluded. The appearance is
   not typical of an acute retroperitoneal hemorhage.
   5. Aneurysmal dilatation of the abdominal aorta in the subrenal
   portion, increased from prior.
   6. Bilateral emphysema.
   .
   [**3-10**]:
   - hypernatremic today...
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-3-9**] 02:20 PM
   Azithromycin - [**2178-3-9**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-3-9**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-10**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 103 (83 - 110) bpm
   BP: 98/45(56) {92/23(45) - 116/76(79)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,758 mL
                                                                    989 mL
   PO:
                                                                    400 mL
                                                                    960 mL
   TF:
   IVF:
                                                                    173 mL
                                                                     29 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  2,920 mL
                                                                  1,080 mL
   Urine:
                                                                  2,920 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,162 mL
                                                                    -91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   8.1 g/dL
   115 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   66 mg/dL
   114 mEq/L
   148 mEq/L
   24.2 %
   22.5 K/uL
        [image002.jpg]
   CT: Neoplasm vs. regenerated splenic tissue (more likely)
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
                             [**2178-3-8**]  12:20 PM
                             [**2178-3-8**]  09:42 PM
                             [**2178-3-9**]  03:43 AM
                             [**2178-3-9**]  08:48 AM
                             [**2178-3-9**]  04:31 PM
                             [**2178-3-9**]  07:37 PM
                             [**2178-3-10**]  03:25 AM
   WBC
   22.1
   23.8
   23.6
   20.5
   22.5
   22.8
   21.3
   22.5
   Hct
   25.3
   26.4
   22.9
   25.3
   21.1
   22.3
   23.2
   25.2
   25.5
   24.2
   Plt
   [**Telephone/Fax (2) 11629**]14
   Cr
   2.0
   2.2
   1.8
   1.6
   1.6
   Glucose
   124
   140
   119
   113
   115
   Other labs: PT / PTT / INR:21.6/39.0/2.0, Alk Phos / T Bili:/0.8,
   Differential-Neuts:91.8 %, Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, LDH:210
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 .H/O VALVE REPLACEMENT, AORTIC BIOPROSTHETIC (AVR)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   82 M with COPD, asplenic, w/ bioprosthetic aortic valve, who presents
   with a community acquired pneumonia, elevated INR and dropping
   hematocrit.
   #Anemia & Elevated INR: Hct remains low, with significant Hct drop
   since admission. No abdominal bleed on CT report, but does have dark,
   tarry stools (formed) per nursing. Transfused 3 units pRBC yesterday
   with sub-optimal response. Need to be aggressive in searching for
   ongoing bleed, given anti-coagulation for valve replacement and atrial
   fibrillation
   - GI recommended normalizing INR for 24-48 hours, no plans for
   Endoscopy for now (given intubation risk), goal Hct >25, PPI IV BID
   - Check Hct q8 hours, then transfuse per below
   - Transfuse two more units pRBC today given Hct <25
   - Goal INR 1.0
   - Maintain active type & screen
   - Consider arterial line placement
   # CAP: Afebrile, with mild improvement in leukocytosis. CT c/w RML/RLL
   consolidation, likely PNA, but cannot rule out lympadenopathy or
   malignancy. Remains on Ceftriazone and Azithromycin (started [**3-6**])
   - Follow-up all outstanding cultures
   - Sputum culture if patient provides sample
   - Given remote splenectomy, check vaccinations are up to date
   - Trend fever curve, WBC count
   # Hypotension:  Baseline blood pressures SBP130s per OMR. Would benefit
   from pRBCs today; good urine output and mentating well.
   - Will check lactate
   - continue Digoxin
   - consider holding home Metoprolol today
   # Acute on chronic kidney injury/hypernatremia. Creatinine
   stable/improved at 1.6 today. Likely [**2-24**] volume depletion given high
   BUN/creatinine ratio, mild hypernatremia. Baseline creatinine 1.6-1.8.
   Of note, patient has been consuming high volumes of PO fluids with
   significant urine output.
   - Will check urine osms/sodium, serums osms to evaluate for Diabetes
   Insipidus
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs prn
   - add steroids if persistent wheezing
   # Atrial fibrillation: CHADS2 score of 3. In discussions with
   Cardiology and GI, lower risk of thromboembolic event than risks of GI
   bleed.
   - Normalize INR for now
   - Hold coumadin, heparin gtt
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin gtt, PPI
   # Access: peripherals; will pursue further peripheral access
   # Communication: Patient, lives with wife
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending evaluation of GI bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   20 Gauge - [**2178-3-9**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-10 10:32:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused 3 units.
   Borderline hypotension.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-3-9**] 02:20 PM
   Azithromycin - [**2178-3-9**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-3-9**] 10:30 PM
   Other medications:
   digoxin, ceftriaxone, atrovent, albuterol, azithro, off IV heparin,
   lopressor 25 [**Hospital1 **], protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2178-3-10**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 106 (88 - 110) bpm
   BP: 107/72(76) {92/23(45) - 116/76(79)} mmHg
   RR: 31 (12 - 31) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,758 mL
                                                                  1,010 mL
   PO:
                                                                    400 mL
                                                                    960 mL
   TF:
   IVF:
                                                                    173 mL
                                                                     50 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  2,920 mL
                                                                  1,290 mL
   Urine:
                                                                  2,920 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,162 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Respiratory / Chest: coarse breath sounds
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   214 K/uL
   115 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   66 mg/dL
   114 mEq/L
   148 mEq/L
   24.2 %
   22.5 K/uL
        [image002.jpg]
                             [**2178-3-7**]  04:49 PM
                             [**2178-3-7**]  09:01 PM
                             [**2178-3-8**]  04:31 AM
                             [**2178-3-8**]  12:20 PM
                             [**2178-3-8**]  09:42 PM
                             [**2178-3-9**]  03:43 AM
                             [**2178-3-9**]  08:48 AM
                             [**2178-3-9**]  04:31 PM
                             [**2178-3-9**]  07:37 PM
                             [**2178-3-10**]  03:25 AM
   WBC
   22.1
   23.8
   23.6
   20.5
   22.5
   22.8
   21.3
   22.5
   Hct
   25.3
   26.4
   22.9
   25.3
   21.1
   22.3
   23.2
   25.2
   25.5
   24.2
   Plt
   [**Telephone/Fax (3) 11629**]14
   Cr
   2.0
   2.2
   1.8
   1.6
   1.6
   Glucose
   124
   140
   119
   113
   115
   Other labs: PT / PTT / INR:21.6/39.0/2.0, Alk Phos / T Bili:/0.8,
   Differential-Neuts:91.8 %, Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, LDH:210
   IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR with right basilar opacity.  Yesterday was quite rotated.
   Assessment and Plan
   82-year-old man with ongoing GI bleed (in setting of anticoagulation),
   CAP, COPD.
   From a respiratory standpoint he has improved (both subjectively and
   objectively).  We will continue antibiotics for CAP as well as
   nebulizers.  Hold off on systemic steroids for now.  D/C azithro
   tomorrow.
   For his GI bleed and acute blood loss anemia, will transfuse two
   units.  Continue PPI.  GI following.  Seems roughly stable (down 1 pt
   [**Name (NI) 1632**] over last 12 hours.  Cardiology also following
 challenging
   balance of risks/benefits related to anticoagulation in setting of
   valve.
   History of pneumonia
 will need outpatient evaluation to fully exclude
   endobronchial disease.  At present, risks outweigh benefits.
   Acute renal failure
 improving.
   Borderline hypotension
 check lactate.  Suspect (given urine output)
   that he is adequately centrally perfused at present.
   Hypernatremia
 replete free water
   AFib
 continue metoprolol at present dose.  Follow dig levels.
   Splenectomy
 ensure vaccines up to date.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-3-6**] 05:05 PM
   20 Gauge - [**2178-3-9**] 04:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU.
   Critically ill.
   Total time spent:  35 minutes

2178-03-11 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hypernatremia resolved w/o intervention
   - had spell of melanotic stools
   - 6 pm Hct 27.7, INR 1.9
   - 9 pm hct 26.6
   - 2 am hct: not drawn?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-9**] 08:30 PM
   Ceftriaxone - [**2178-3-10**] 01:59 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-3-10**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-3-11**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 104 (84 - 117) bpm
   BP: 101/53(60) {76/31(43) - 112/72(76)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  3,532 mL
                                                                    400 mL
   PO:
                                                                  2,860 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    110 mL
   Blood products:
                                                                    562 mL
   Total out:
                                                                  2,870 mL
                                                                    890 mL
   Urine:
                                                                  2,670 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    662 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   201 K/uL
   9.0 g/dL
   101 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.6 mEq/L
   48 mg/dL
   111 mEq/L
   144 mEq/L
   27.0 %
   17.8 K/uL
        [image002.jpg]
                             [**2178-3-8**]  09:42 PM
                             [**2178-3-9**]  03:43 AM
                             [**2178-3-9**]  08:48 AM
                             [**2178-3-9**]  04:31 PM
                             [**2178-3-9**]  07:37 PM
                             [**2178-3-10**]  03:25 AM
                             [**2178-3-10**]  10:44 AM
                             [**2178-3-10**]  05:52 PM
                             [**2178-3-10**]  09:29 PM
                             [**2178-3-11**]  03:57 AM
   WBC
   23.6
   20.5
   22.5
   22.8
   21.3
   22.5
   21.6
   17.8
   Hct
   21.1
   22.3
   23.2
   25.2
   25.5
   24.2
   24.8
   27.7
   26.6
   27.0
   Plt
   [**Telephone/Fax (3) **]27
   [**Telephone/Fax (2) 11642**]01
   Cr
   2.2
   1.8
   1.6
   1.6
   1.7
   1.7
   Glucose
   140
   119
   113
   115
   101
   Other labs: PT / PTT / INR:22.3/43.4/2.1, Alk Phos / T Bili:/0.8,
   Differential-Neuts:91.8 %, Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Lactic
   Acid:1.9 mmol/L, LDH:210 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   #Anemia & Elevated INR: Transfused two units of pRBC yesterday and did
   not respond appropriately. Did have an episode of melanotic stools,
   however. Need to be aggressive in searching for ongoing bleed, given
   anti-coagulation for valve replacement and atrial fibrillation; also
   need to be aggressive in maintaining patient hemodynamic stability
   - GI recommended normalizing INR for 24-48 hours, no plans for
   Endoscopy for now (given intubation risk), goal Hct >25, PPI IV BID
   - Check Hct q8 hours, then transfuse per below
   - Transfuse two more units pRBC today given Hct <25
   - Goal INR 1.0
   - Maintain active type & screen
   - Consider arterial line placement
   # CAP: Afebrile, with improvement in leukocytosis. CT c/w RML/RLL
   consolidation, likely PNA, but cannot rule out lympadenopathy or
   malignancy. Remains on Ceftriazone and Azithromycin (started [**3-6**])
   will discontinue Azithromycin today
   - Follow-up all outstanding cultures
   - Sputum culture if patient provides sample
   - Given remote splenectomy, check vaccinations are up to date
   - Trend fever curve, WBC count
   # Hypotension:  Baseline blood pressures SBP130s per OMR. Lactate
   within normal limits
   - continue Digoxin
   - consider holding home Metoprolol today
   # Acute on chronic kidney injury/hypernatremia. Creatinine
   stable/improved at 1.6 today. Likely [**2-24**] volume depletion given high
   BUN/creatinine ratio, mild hypernatremia. Baseline creatinine 1.6-1.8.
   Of note, patient has been consuming high volumes of PO fluids with
   significant urine output. Serum sodium self corrected yesterday.
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs prn
   - add steroids if persistent wheezing
   # Atrial fibrillation: CHADS2 score of 3. In discussions with
   Cardiology and GI, lower risk of thromboembolic event than risks of GI
   bleed.
   - Normalize INR for now
   - Hold coumadin, heparin gtt
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin gtt, PPI
   # Access: peripherals; will pursue further peripheral access
   # Communication: Patient, lives with wife
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending evaluation of GI bleed
 PNEUMONIA, OTHER
 COAGULOPATHY
 .H/O VALVE REPLACEMENT, AORTIC BIOPROSTHETIC (AVR)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-3-9**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-12 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - O2 requirement still 93-95% on 4L NC
   - GI: Wed: Hct stable, no need to scope for now, await improvement of
   PNA, general cond
   Do not scope out of the Unit for now. Hct stable. If PNA resolves and
   he can leave the Unit then we could consider EGD.
   - Will encourage OOB --> chair, IS
   - HR remained 100-110s so Metoprolol 12.5 q4h instead
   - Lateral decub xray to be done late afternoon (staffing issue)
   - Hct stable 27 -> 26.9 ->
   - Ultrasound of pleural effusion needs to be done
   - PM lytes stable except low mag -> repleted
   - Decubitus CXR: small-mod right layering effusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-9**] 08:30 PM
   Ceftriaxone - [**2178-3-10**] 01:59 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2178-3-11**] 12:00 PM
   Pantoprazole (Protonix) - [**2178-3-11**] 09:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2178-3-12**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.8
C (96.5
   HR: 83 (79 - 112) bpm
   BP: 96/44(56) {82/31(45) - 131/64(75)} mmHg
   RR: 27 (21 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
                  Total In:
                                                                  1,750 mL
                                                                    240 mL
   PO:
                                                                  1,640 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    720 mL
   Urine:
                                                                  2,250 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), Irregularly irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   189 K/uL
   8.4 g/dL
   104 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   41 mg/dL
   112 mEq/L
   144 mEq/L
   25.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2178-3-9**]  08:48 AM
                             [**2178-3-9**]  04:31 PM
                             [**2178-3-9**]  07:37 PM
                             [**2178-3-10**]  03:25 AM
                             [**2178-3-10**]  10:44 AM
                             [**2178-3-10**]  05:52 PM
                             [**2178-3-10**]  09:29 PM
                             [**2178-3-11**]  03:57 AM
                             [**2178-3-11**]  04:09 PM
                             [**2178-3-12**]  05:26 AM
   WBC
   22.5
   22.8
   21.3
   22.5
   21.6
   17.8
   14.7
   Hct
   23.2
   25.2
   25.5
   24.2
   24.8
   27.7
   26.6
   27.0
   26.9
   25.4
   Plt
   [**Telephone/Fax (3) 11659**]
   189
   Cr
   1.6
   1.6
   1.7
   1.7
   1.6
   1.7
   Glucose
   113
   115
   101
   122
   104
   Other labs: PT / PTT / INR:23.5/46.9/2.2, Alk Phos / T Bili:/0.8,
   Differential-Neuts:91.8 %, Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Lactic
   Acid:1.9 mmol/L, LDH:210 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:3.3
   mg/dL
   Imaging: [**3-11**] Lat decub CXR (prelim): Small-mod right layering
   effusion. Otherwise no change.
   [**3-11**] Port CXR: There is slight interval increase in the right lower
   lobe opacity which might be also accompanied by increase in pleural
   effusion. The right upper lung is well areated. The left lung is
   essentially clear. Cardiomediastinal silhouette is unchanged. Slight
   deviation of the mediastinum to the right may represent some degree of
   atelectasis of the right lower or right middle lobe.  There is no
   evidence of pneumothorax.
   Microbiology: [**3-10**] CXR: >25 PMNs and >10 epithelial cells/100X field.
   Gram stain indicates extensive contamination with upper respiratory
   secretions.
   [**3-9**] H. Pylori serology: Positive
   [**3-7**] MRSA Screen: positive
   Assessment and Plan
 PNEUMONIA, OTHER
 COAGULOPATHY
 .H/O VALVE REPLACEMENT, AORTIC BIOPROSTHETIC (AVR)
   82 y/o M with COPD, CAP, atrial fibrillation, concern for GI bleed
   #Anemia & Elevated INR: Hct increased after transfusion. No melena
   overnight.
   - Off anticoagulation. No plans for Endoscopy for now (given intubation
   risk), goal Hct >25, PPI IV BID
   - Check Hct in PM
   - Goal INR 1.0
   - Maintain active type & screen
   # CAP: Afebrile, with improvement in leukocytosis. CT c/w RML/RLL
   consolidation, likely PNA, but cannot rule out lympadenopathy or
   malignancy. Remains on Ceftriazone. Increased effusion on portable CXR.
   - Will clarify CTX course (today day 6)
   - If signs/symptoms PNA continue, consider coverage for HAP
   - Follow-up all outstanding cultures
   - Sputum culture if patient provides sample
   - Trend fever curve, WBC count
   .
   # Pleural effusion: Relatively significant and CT chest, ultrasound and
   lateral decubitus CXR
   - Will discuss with IP re: possible thoracentesis (diagnostic)
   - Would likely need FFP prior to procedure given INR
   # Positive H. Pylori serology:
   - Patient will receive two week course of Amoxicillin and Flagyl in
   setting of Digoxin
   # Hypotension:  Baseline blood pressures SBP130s per OMR. Lactate
   within normal limits.
   - Continue to monitor for now
   # Acute on chronic kidney injury/hypernatremia. Creatinine stable.
   Likely [**2-24**] volume depletion. Baseline creatinine 1.6-1.8
   # COPD- not on any nebs as outpatient
   - ipra/alb nebs prn
   - add steroids if persistent wheezing
   # Atrial fibrillation: Tachycardic to 130s this morning.
   - Continue Digoxin
   - On Lopressor 12.5mg IV q4hours for rate control
   - Hold coumadin, heparin gtt
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin gtt, PPI
   # Access: PIV x2
   # Communication: Patient, lives with wife
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending evaluation of GI bleed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-3-9**] 04:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-03-12 10:34:00 Physician Attending Progress Note
Chief Complaint: GIB, coagulopathy, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major clinical events.  AFib under better rate control.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2178-3-9**] 08:30 PM
   Ceftriaxone - [**2178-3-10**] 01:59 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2178-3-11**] 12:00 PM
   Pantoprazole (Protonix) - [**2178-3-11**] 09:13 PM
   Other medications:
   meds reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-3-12**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 35.6
C (96
   HR: 90 (79 - 111) bpm
   BP: 113/49(64) {82/31(45) - 131/64(75)} mmHg
   RR: 27 (21 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
                  Total In:
                                                                  1,750 mL
                                                                    580 mL
   PO:
                                                                  1,640 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    980 mL
   Urine:
                                                                  2,250 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   189 K/uL
   104 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   41 mg/dL
   112 mEq/L
   144 mEq/L
   25.4 %
   14.7 K/uL
        [image002.jpg]
                             [**2178-3-9**]  08:48 AM
                             [**2178-3-9**]  04:31 PM
                             [**2178-3-9**]  07:37 PM
                             [**2178-3-10**]  03:25 AM
                             [**2178-3-10**]  10:44 AM
                             [**2178-3-10**]  05:52 PM
                             [**2178-3-10**]  09:29 PM
                             [**2178-3-11**]  03:57 AM
                             [**2178-3-11**]  04:09 PM
                             [**2178-3-12**]  05:26 AM
   WBC
   22.5
   22.8
   21.3
   22.5
   21.6
   17.8
   14.7
   Hct
   23.2
   25.2
   25.5
   24.2
   24.8
   27.7
   26.6
   27.0
   26.9
   25.4
   Plt
   [**Telephone/Fax (3) 11659**]
   189
   Cr
   1.6
   1.6
   1.7
   1.7
   1.6
   1.7
   Glucose
   113
   115
   101
   122
   104
   Other labs: PT / PTT / INR:23.5/46.9/2.2, Alk Phos / T Bili:/0.8,
   Differential-Neuts:91.8 %, Lymph:4.7 %, Mono:3.5 %, Eos:0.0 %, Lactic
   Acid:1.9 mmol/L, LDH:210 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   82-year-old man with ongoing GI bleed (in setting of anticoagulation),
   CAP, COPD, and AVR.
   From a respiratory standpoint he has improved (both subjectively and
   objectively).  We will continue antibiotics for CAP as well as
   nebulizers.  He has completed azithro course; continue ceftriaxone for
   now.
   Main clinical decision today is about his parapneumonic effusion.  On
   ultrasound exam at bedside, fluid is clearly present but is largely
   subpulmonic.  Technically, would be challenging and higher-than-usual
   risk for pneumothorax.  Combined with coagulopathy, this makes the
   risk/benefit balance for thoracentesis challenging.  We will therefore
   consult interventional pulmonary for their opinion about risk/benefit
   balance for thoracentesis under ultrasound guidance, with FFP coverage.
   For his GI bleed and acute blood loss anemia: stable at present.  H
   pylori positive
 beginning treatment.  Continue PPI.  GI following.
   Cardiology also following
 challenging balance of risks/benefits
   related to anticoagulation in setting of valve.
   History of pneumonia
 will need outpatient evaluation to fully exclude
   endobronchial disease.  At present, risks outweigh benefits for bronch.
   Acute renal failure
 improved closer to baseline
   AVR
 once bleeding quiescent for several days, would consider resuming
   anticoagulation in consultation with cardiology/GI.
   AFib
 better rate controlled.  Follow dig levels.
   Splenectomy
 ensure vaccines up to date prior to discharge.
   ICU Care
   Nutrition: on oral diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-3-9**] 04:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Disposition : To floor